US06455528B1
(5) Synthesis of N-(1-Methyl-1-(4-((4-(pyrimidin-2-yl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide and 1-(2-pyrimidyl)piperazine dihydrochloride instead of phenylpiperazine, the title compound was obtained as white crystals, m.p.=137-138° C.

reactant | N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide | ClCC1=CC=C(C=C1)C(C)(C)NC(C)=O | C12H16ClNO
reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
product | N-(1-Methyl-1-(4-((4-(pyrimidin-2-yl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide | CC(C)(C1=CC=C(C=C1)CN1CCN(CC1)C1=NC=CC=N1)NC(C)=O | C20H27N5O
